US07947712B2
2-(3-Bromo-phenyl)-5-methyl-thiophene
To a stirring solution of 1-(3-bromo-phenyl)-pentane-1,4-dione (18.32 mmol) in toluene (90 mL) was added Lawesson's Reagent (19.24 mmol, 1.05 eq.) and the mixture was heated to reflux for 20 min. The reaction mixture was then cooled to room temperature and diluted with 1:1 hexanes/ether (90 mL) resulting in a precipitate. The mixture was filtered through a small pad of celite and the filtrate was concentrated to a light yellow solid that was purified by recrystallization from hexanes to give the final product as a white solid (12.17 mmol, 66%). MS (ESI) m/z 254.3.

reactant | 1-(3-bromo-phenyl)-pentane-1,4-dione | 18.32 mmol | BrC=1C=C(C=CC1)C(CCC(C)=O)=O | C11H11BrO2
reactant | Lawesson's Reagent | 19.24 mmol, 1.05 eq. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Bromo-phenyl)-5-methyl-thiophene | 12.17 mmol, 66% | BrC=1C=C(C=CC1)C=1SC(=CC1)C | C11H9BrS
